US08440666B2
4-Difluoromethoxy-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one
4-Difluoromethoxy-2-(tetrahydro-2H-pyran-2-yl)-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one (80 mg, 0.20 mmol) in acetic acid-tetrahydrofuran-water (5/1/1) was stirred at 90° C. for 3 hours and then stirred with two drops of concentrated hydrochloric acid for another 3 hours. After completion of the reaction, the reaction solution was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1 to 1/1) to give the desired product (48 mg, 79% yield).

reactant | 4-Difluoromethoxy-2-(tetrahydro-2H-pyran-2-yl)-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | 0.20 mmol, 80 mg | FC(OC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)C2OCCCC2)=O)F | C20H29F2N3O3
solvent | acetic acid tetrahydrofuran water | C(C)(=O)O.O1CCCC1.O
catalyst | hydrochloric acid | two drops | Cl | ClH
product | 4-Difluoromethoxy-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | 48 mg, 79% yield | FC(OC=1C(NN=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)=O)F | C15H21F2N3O2
